* Z:\home\prodan\_work\electronics\rumble\ltspice\amp_green_island.asc
XU1 N005 N001 +12 -12 N002 OP27
R1 N001 in+ 10k
R2 N005 in- 10k
R3 0 N005 100k
R4 N001 N002 100k
R5 N002 N003 1k
C1 0 N005 1µ
C2 N001 N002 1µ
V1 in+ in- AC 0.1
V2 +12 0 12
V3 0 -12 12
XU2 0 N003 +12 -12 N004 TL072
XU3 N006 N008 +12 -12 N007 TL072
R6 N004 N003 200k
C3 N004 N003 1µ
R7 N008 0 3.3k
R8 N006 N004 1k
R9 N007 N008 5.6k
R10 N009 N008 82k
R11 +12 N009 33k
R12 N009 -12 33k
R13 out N007 470
R14 out 0 1Meg
.lib tl72.lib
.ac lin 1000 4 100
.lib ADI.lib
.backanno
.end
